US04077795
Following the above procedure, two grams of a 70% aqueous solution of ethylamine was reacted with 2.6 grams (0.01 mole) of 2,6-dinitro-4-t-butylchlorobenzene to yield 2 grams of N-ethyl-2,6-dinitro-4-t-butylaniline as orange needles melting at 70°-73° C.

reactant | ethylamine | C(C)N | C2H7N
reactant | 2,6-dinitro-4-t-butylchlorobenzene | 0.01 mole, 2.6 grams | [N+](=O)([O-])C1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])Cl | C10H11ClN2O4
product | N-ethyl-2,6-dinitro-4-t-butylaniline | 2 grams | C(C)NC1=C(C=C(C=C1[N+](=O)[O-])C(C)(C)C)[N+](=O)[O-] | C12H17N3O4
